US07276528B2
[(3-Hydroxyphenyl)methyl]carbamic acid tert-butyl ester
3-(Aminomethyl)phenol hydrobromide (4.2 g, 20.6 mmol) was dissolved in ethyl alcohol (80 ml) and triethylamine (3.5 ml, 25 mmol) was added followed by di-tert-butyl dicarbonate (4.8 g, 22 mmol) and the reaction mixture stirred for 4 h. The solvent was removed by evaporation, water added and the mixture extracted with ethyl acetate and dried over magnesium sulphate. The solvent was evaporated and the residue purified by flash chromatography using 50% ethyl acetate/isohexane as eluent to give the title compound as a colourless solid (3.8 g, 83%).

reactant | 3-(Aminomethyl)phenol hydrobromide | 20.6 mmol, 4.2 g | Br.NCC=1C=C(C=CC1)O
reactant | triethylamine | 25 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 22 mmol, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl alcohol | 80 ml | C(C)O | C2H6O
product | [(3-Hydroxyphenyl)methyl]carbamic acid tert-butyl ester | 3.8 g, 83% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)O)=O | C12H17NO3
